US06528525B1
(d) Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-methylphenoxy)propionate
In a similar manner to that described in Reference example 25, a reaction was carried out using ethyl 3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionate (300 mg), which is the-product of Reference example 35(c), t-butyl 2-methanesulfonyloxy-ethylcarbamate (598 mg) and potassium carbonate (691 mg) and the reaction mixture was treated to afford the title compound (261 mg) as a colorless oil.

reactant | ethyl 3-(4-hydroxyphenyl)-2-(4-methylphenoxy)propionate | 300 mg | OC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C | C18H20O4
reactant | t-butyl 2-methanesulfonyloxy-ethylcarbamate | 598 mg | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
reactant | potassium carbonate | 691 mg | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-methylphenoxy)propionate | 261 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C | C25H33NO6
